US07034052B2
To a solution of (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxy-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (5.7 g, 13 mmol), triphenyl phosphine (7.1 g, 2.4 mmol) and thioacetic acid (2.2 mL, 31 mmol) in THF (50 mL) was added a solution of DIAD (5.5 mL, 28 mmol) in THF (50 mL) at room temperature. After 4 hrs, methanol (5 mL) was added to the solution. The solvent was removed in vacuo. The residue was purified with Chromatography to give (3R)-thioacetic acid S-[3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxy-phenyl)-propyl]ester (5.1 g, 79% yield). To a solution of (3R)-thioacetic acid S-[3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxy-phenyl)-propyl]ester (5.0 g, 10 mmol) and methyl iodide (0.8 mL, 13 mmol) in methanol (40 mL) was added a solution of sodium hydroxide (5N, 4.2 mL, 21 mmol) at room temperature. After 2 hrs, to the mixture was added water (40 mL), methylene chloride (20 mL), and oxone (18 g, 29 mmol) and kept for 1.5 hrs. The mixture was extracted with methylene chloride (100 mL) and water (50 mL). The organic layer was washed with Na2S2O3 (10% 50 mL), brine (50 mL) and dried over MgSO4. The solvent was removed in vacuo. The residue was purified with chromatography (Silica Gel) to give (3R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-3-methanesulfinyl-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as a white solid (320 mg, 6% yield): mp, 122–125° C.; 1H NMR (CDCl3) δ 0.86–0.93 (m, 2H, CH2), 1.08–1.14 (m, 2H, CH2), 1.45 (t, J=7 Hz, 3H, CH3), 1.63–1.72 (m, 1H, CH), 2.58 and 2.59 (2s, 3H, CH3), 2.60–2.82 (m, 4H, CH2CH2), 3.86 (s, 3H, CH3), 3.97 (d, J=17 Hz, 1H, NCHH), 4.06 (q, J=7 Hz, 2H, CH2), 4.31 and 4.35 (2 sets of d, J=17 Hz, 1H, NCHH), 5.50–5.59 (m, 1H, NCH), 6.84–7.02 (m, 4H, Ar), 7.41–7.48 (m, 1H, Ar), 8.43 (d, J=8 Hz, 1H, Ar), 10.54 (s, 1H, NH); 13C NMR (CDCl3) δ 8.28, 14.76, 16.18, 24.28, 24.76, 38.95, 45.71, 45.89, 51.22, 51.42, 53.07, 53.63, 55.99, 64.64, 111.54, 112.49, 116.89, 117.19, 117.80, 119.54, 130.38, 130.48, 133.37, 138.04, 141.36, 148.77, 149.40, 169.79, 169.82, 172.66; Anal Calcd for C25H30N2O5S+0.8 H2O: C, 61.93; H, 6.57; N, 5.78; H2O, 2.97. Found: C, 61.63; H, 6.62; N, 5.61; H2O, 2.19.

reactant | (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxy-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 13 mmol, 5.7 g | C(C)OC=1C=C(C=CC1OC)[C@@H](CCO)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C24H28N2O5
reactant | triphenyl phosphine | 2.4 mmol, 7.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | thioacetic acid | 31 mmol, 2.2 mL | C(C)(=S)O | C2H4OS
reactant | DIAD | 28 mmol, 5.5 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | (3R)-thioacetic acid S-[3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxy-phenyl)-propyl]ester | 5.1 g, 79% yield | C1(CC1)C(=O)NC=1C=CC=C2CN(C(C12)=O)[C@H](CCSC(C)=O)C1=CC(=C(C=C1)OC)OCC | C26H30N2O5S
